US04153624
(B) Conversion to Trichlorocarbanilide
A cold solution of 3,4-dichloroaniline (13.2 parts) in chloroform 75 parts was added to the isocyanate solution from A (120 parts containing 7.5 parts of 4-chlorophenyl isocyanate). The mixture was stirred at room temperature for 16 hours, then the solid filtered off, washed with chloroform and dried.

reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | isocyanate | [N-]=C=O
reactant | 4-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Trichlorocarbanilide | C1=CC(=CC=C1NC(=O)NC2=CC(=C(C=C2)Cl)Cl)Cl | C13H9Cl3N2O
